US07319103B2
Methanesulfonic acid 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzo-furan-2-yl]-ethyl ester (0.085 mmol) described above was dissolved in acetonitrile (2 ml) followed by addition of 3-(R)-dimethylaminopyrrolidine (0.85 mmol) and potassium carbonate (0.425 mmol) and heated to 70° C. for 24 hours. The reaction was cooled, filtered and concentrated. The residue was purified via preparative HPLC to give 8-{2-[2-(3-(R)-Dimethylamino-pyrrolidin-1-yl)-ethyl]-benzofuran-5-yl}-6,7-dihydro-5H-1,4,8a-triaza-s-indacene.

reactant | Methanesulfonic acid 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzo-furan-2-yl]-ethyl ester | 0.085 mmol | N1=CC=C2N=C3CCCC3=C(N12)C=1C=CC2=C(C=C(O2)CCOS(=O)(=O)C)C1 | C20H19N3O4S
reactant | 3-(R)-dimethylaminopyrrolidine | 0.85 mmol | CN([C@H]1CNCC1)C | C6H14N2
reactant | potassium carbonate | 0.425 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 8-{2-[2-(3-(R)-Dimethylamino-pyrrolidin-1-yl)-ethyl]-benzofuran-5-yl}-6,7-dihydro-5H-1,4,8a-triaza-s-indacene | CN([C@H]1CN(CC1)CCC=1OC2=C(C1)C=C(C=C2)C2=C1CCCC1=NC1=CC=NN21)C | C25H29N5O
